i(XXX) test
* Restrictions of function i(device):
* O.K. when device and i(device) are at top level.
* O.K. when device and i(device) are in the same
* subcircuit at first subcircuit level.
* O.K. when device and i(device) are in the same
* subcircuit at some deeper subcircuit level.

* source at top level, function i(XXX) at top level
*o.k.
R1 1 0 1
V1 1 0 1
R2 2 0 '5 * i(R1)'
V2 2 0 1

* source at top level, function i(XXX) at subckt level
* geht nicht!
*.subckt contr1 n1 n2
*RS1 n1 n2 '6 * i(R1)'
*.ends

*XR1 3 0 contr1
*V3 3 0 1

* source at subckt level, function i(XXX) at same subckt
* o.k.
.subckt contr2 n1 n2
RS1 n1 n2 '6 * i(RS2)'
RS2 1 0 1
V1 1 0 1
.ends

XR2 4 0 contr2
V4 4 0 1

* source at subckt level, function i(XXX) at same subckt level
* but different subcircuit: should not do!
* does not do!
*.subckt contr3 n1 n2
*RS1 n1 n2 '6 * i(RS2)'
*.ends

*XR3 5 0 contr3
*V5 5 0 1


* source at subckt level, function i(XXX) at top level
* geht nicht!

*.subckt contr4 n1 n2
*RS41 n1 n2 7
*VS41 n1 n2 1
*.ends

*XR4 6 0 contr4
*R6 7 0 '10*i(r.xr4.rs41)'
*V6 7 0 1


* source at second subckt level, function i(XXX) at same subckt
* o.k.
.subckt contr5 n1 n2
XR2 n1 n2 contr2
.ends

XR8 8 0 contr5
V8 8 0 1

* MOS device, first node only
vd d 0 1
vg g 0 1
vb b 0 0
vs s 0 0
m1 d g s b n1 W=10u L=1u
RM 10 0 '1E6 * i(M1)'
VRM 10 0 1

* reuse i(M1)
BMM 11 0 V='1E6 * i(M1)'
RMM 11 0 1

.include modelcard.nmos

.control
op
print i(V1) i(V2) i(V4) i(V8) i(VRM) i(BMM)
.endc

.end
